US04419357
2-Amino-5-methyl-N-(1H-tetrazol-5-yl)benzamide in an excess of triethoxymethane was refluxed for 60 hours to give 6-methyl-3-(1H-tetrazol-5-yl)-4(3H)-quinazolinone melting at about 285°-286° C. after recrystallization from a mixture of dimethylsulfoxide and water.

reactant | 2-Amino-5-methyl-N-(1H-tetrazol-5-yl)benzamide | NC1=C(C(=O)NC2=NN=NN2)C=C(C=C1)C | C9H10N6O
reactant | triethoxymethane | C(C)OC(OCC)OCC | C7H16O3
product | 6-methyl-3-(1H-tetrazol-5-yl)-4(3H)-quinazolinone | CC=1C=C2C(N(C=NC2=CC1)C1=NN=NN1)=O | C10H8N6O
